US07888364B2
General procedure G was performed using 4-(ethylthio)benzoic acid and 4-chloro-3-(pyridin-2-yl)aniline to produce N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(ethylthio)benzamide.

reactant | 4-(ethylthio)benzoic acid | C(C)SC1=CC=C(C(=O)O)C=C1 | C9H10O2S
reactant | 4-chloro-3-(pyridin-2-yl)aniline | ClC1=C(C=C(N)C=C1)C1=NC=CC=C1 | C11H9ClN2
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(ethylthio)benzamide | ClC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)SCC)=O)C1=NC=CC=C1 | C20H17ClN2OS
